US05618821
A suspension of 3 g (15.1 mmol) of 2-acetyl-6-bromopyridine, 0.89 g (15.9 mmol) of propargyl alcohol, 0.078 g of CuI, 300 mg of PdCl2 (P(Ph)3)2 in 60 ml of triethylamine was stirred under nitrogen at room temperature for 6 h. The mixture was diluted with water, extracted with ether, and the organic layer was washed with water (2x), brine, and dried over magnesium sulfate. The organic solution was concentrated in vacuo and the residue was purified by MPLC (silica gel 60, hexane/ethyl acetate, 1:1) to afford 1.3 g (50%) of 2-acetyl-6-(3-hydroxy-2-propynyl)pyridine, as a solid product.

reactant | 2-acetyl-6-bromopyridine | 15.1 mmol, 3 g | C(C)(=O)C1=NC(=CC=C1)Br | C7H6BrNO
reactant | propargyl alcohol | 15.9 mmol, 0.89 g | C(C#C)O | C3H4O
solvent | triethylamine | 60 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
catalyst | CuI | 0.078 g | [Cu]I
product | 2-acetyl-6-(3-hydroxy-2-propynyl)pyridine | 1.3 g, 50% | C(C)(=O)C1=NC(=CC=C1)CC#CO | C10H9NO2
